US08604074B2
N-(3-(3,6-dibromo-9H-carbazol-9-yl)-2-methoxypropyl)-3-methoxyaniline
Sodium hydride (9.0 mg, 0.23 mmol) was added to a stirring solution of 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol (99.3 mg, 0.20 mmol) in DMF 0.5 ml, 0.39 M). The solution was stirred at room temperature for about 70 minutes before the dropwise addition of a solution of methyl iodide (14 ml. 0.22 mol) in DMF (1.0 ml). The reaction was monitored by 1 c/ms for the consumption of SM and the appearance of O and N-methyl products. After 2.5 hours of stirring at r.t, conversion was about 30% and about 5% N-methyl product had formed. The reaction was stopped when an increase of N-Me to O-Me had been observed and conversion was about 50%. The brown solution was diluted with ethyl acetate and washed several times with water and finally brine. The organic layer was dried over Na2SO4, filtered and condensed. The mixture was purified by preparative TLC 30% EtOAc/hexanes.

reactant | Sodium hydride | 0.23 mmol, 9.0 mg | [H-].[Na+]
reactant | 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol | 0.20 mmol, 99.3 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CNC1=CC(=CC=C1)OC)O | C22H20Br2N2O2
reactant | methyl iodide | 0.22 mol, 14 ml | CI | CH3I
solvent | DMF | 0.39 M, 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(3,6-dibromo-9H-carbazol-9-yl)-2-methoxypropyl)-3-methoxyaniline | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CNC1=CC(=CC=C1)OC)OC | C23H22Br2N2O2
